* source TASK2
X_U3         N02733 N02889 N02817 0 AIGBT 
X_U9         N03337 N03341 N02841 PWM PARAMS:  VPOS=15 VNEG=-15
X_U6         N02889 N02733 ADIODE 
X_U8         0 N02901 ADIODE 
X_U4         N02889 0 0 N02817 AIGBT 
X_U5         N02901 N02733 ADIODE 
X_U1         N02733 N02901 N02841 0 AIGBT 
X_U10         N03329 N03341 N02817 PWM PARAMS:  VPOS=15 VNEG=-15
X_U2         N02901 0 0 N02841 AIGBT 
X_U11         N03341 TRIWAV PARAMS:  DELAY=0 DT=1US PERIOD=1MS LEVEL=1V
R_R1         N02889 N02901  1k TC=0,0 
X_U7         0 N02889 ADIODE 
V_V1         N02733 0 220Vdc
V_V4         N03337 0  AC 0
+SIN 0 1 60 0 0 0
V_V5         N03329 0  AC 0
+SIN 0 -1 60 0 0 0
