* source TASK3
X_U6         N05031 N04883 ADIODE 
V_V4         N05487 0  AC 0
+SIN 0 1 60 0 0 0
V_V1         N04883 0 220Vdc
X_U9         N05487 N05491 N04991 PWM PARAMS:  VPOS=15 VNEG=-15
X_U1         N04883 N05043 N04991 0 AIGBT 
V_V5         N05471 0  AC 0
+SIN 0 -1 60 0 0 0
X_U3         N04883 N05031 N04967 0 AIGBT 
X_U4         N05031 0 0 N04967 AIGBT 
X_U7         0 N05031 ADIODE 
X_U5         N05043 N04883 ADIODE 
R_R1         N05119 N05043  0.5 TC=0,0 
X_U2         N05043 0 0 N04991 AIGBT 
X_U8         0 N05043 ADIODE 
X_U11         N05491 TRIWAV PARAMS:  DELAY=0 DT=1US PERIOD=1MS LEVEL=1V
X_U10         N05471 N05491 N04967 PWM PARAMS:  VPOS=15 VNEG=-15
L_L1         N05119 N05031  10mH  
