* source TASK4
V_V4         N06895 0  AC 0
+SIN 0 1 60 0 0 0
X_U9         N06895 N06899 N06379 PWM PARAMS:  VPOS=15 VNEG=-15
X_U2         N06431 0 0 N06379 AIGBT 
X_U1         N06271 N06431 N06379 0 AIGBT 
X_U4         N06419 0 0 N06355 AIGBT 
X_U6         N06419 N06271 ADIODE 
X_U7         0 N06419 ADIODE 
X_U11         N06899 TRIWAV PARAMS:  DELAY=0 DT=1US PERIOD=1MS LEVEL=1V
X_U8         0 N06431 ADIODE 
X_U5         N06431 N06271 ADIODE 
R_R1         N07961 N06431  0.5 TC=0,0 
V_V1         N06271 0 220Vdc
V_V5         N06879 0  AC 0
+SIN 0 1 60 0 0 120
X_U3         N06271 N06419 N06355 0 AIGBT 
X_U10         N06879 N06899 N06355 PWM PARAMS:  VPOS=15 VNEG=-15
X_U15         0 N07354 ADIODE 
X_U12         N06271 N07354 N07326 0 AIGBT 
X_U13         N07354 N06271 ADIODE 
X_U14         N07354 0 0 N07326 AIGBT 
R_R2         N07961 N06419  0.5 TC=0,0 
R_R3         N07961 N07354  0.5 TC=0,0 
V_V6         N08211 0  AC 0
+SIN 0 1 60 0 0 240
X_U16         N08211 N06899 N07326 PWM PARAMS:  VPOS=15 VNEG=-15
