* source TASK5
V_V6         N11153 0  AC 0
+SIN 0 1 60 0 0 240
X_U14         N10411 0 0 N10311 AIGBT 
X_U3         N10207 N10439 N10355 0 AIGBT 
X_U5         N10455 N10207 ADIODE 
V_V1         N10207 0 220Vdc
X_U10         N11039 N11059 N10355 PWM PARAMS:  VPOS=15 VNEG=-15
X_U16         N11153 N11059 N10311 PWM PARAMS:  VPOS=15 VNEG=-15
X_U7         0 N10439 ADIODE 
R_R1         N104831 N10455  0.5 TC=0,0 
X_U11         N11059 TRIWAV PARAMS:  DELAY=0 DT=1US PERIOD=1MS LEVEL=1V
X_U4         N10439 0 0 N10355 AIGBT 
X_U13         N10411 N10207 ADIODE 
X_U2         N10455 0 0 N10387 AIGBT 
X_U9         N11055 N11059 N10387 PWM PARAMS:  VPOS=15 VNEG=-15
X_U12         N10207 N10411 N10311 0 AIGBT 
R_R2         N105391 N10439  0.5 TC=0,0 
R_R3         N105911 N10411  0.5 TC=0,0 
V_V5         N11039 0  AC 0
+SIN 0 1 60 0 0 120
X_U1         N10207 N10455 N10387 0 AIGBT 
V_V4         N11055 0  AC 0
+SIN 0 1 60 0 0 0
X_U15         0 N10411 ADIODE 
X_U8         0 N10455 ADIODE 
X_U6         N10439 N10207 ADIODE 
L_L1         N104831 N10499  10mH  
L_L2         N105391 N10499  10mH  
L_L3         N105911 N10499  10mH  
