* source TASK_1
V_V1         N00208 0 220Vdc
X_U1         N00208 N00271 N00854 0 AIGBT 
X_U2         N00271 0 0 N00854 AIGBT 
X_U3         N00208 N00275 N00858 0 AIGBT 
X_U4         N00275 0 0 N00858 AIGBT 
X_U5         N00271 N00208 ADIODE 
X_U6         N00275 N00208 ADIODE 
X_U7         0 N00275 ADIODE 
X_U8         0 N00271 ADIODE 
R_R1         N02120 N00271  10 TC=0,0 
X_U9         N00669 N00706 N00854 PWM PARAMS:  VPOS=15 VNEG=-15
X_U10         N00830 N00706 N00858 PWM PARAMS:  VPOS=15 VNEG=-15
V_V2         N00669 0 0.5Vdc
X_U11         N00706 TRIWAV PARAMS:  DELAY=0 DT=1US PERIOD=1MS LEVEL=1V
V_V3         N00830 0 -0.5Vdc
L_L1         N02120 N00275  10mH  
