* source TASK_1
D_D2         0 N01060 D1N3940 
L_L1         N01074 0  200mH  
V_V1         N01060 N01070  
+SIN 0 60 60 0 0 0
R_R1         N01074 N00978  100 TC=0,0 
D_D1         N01060 N00978 D1N3940 
D_D3         0 N01070 D1N3940 
D_D4         N01070 N00978 D1N3940 
