* source TASK_2
V_V4         N14281 0  
+PULSE 0 20 5m 1u 1u 100u 50m
V_V6         N14623 0  
+PULSE 0 20 38.34m 1u 1u 100u 50m
V_V1         N14269 0  AC 0
+SIN 0 450 20 0 0 0
X_U2         N14421 N14273 N14447 N14273 ASCR 
X_U3         N14607 N14273 N14623 N14273 ASCR 
V_V2         N14421 0  AC 0
+SIN 0 450 20 0 0 120
V_V3         N14607 0  AC 0
+SIN 0 450 20 0 0 240
R_R1         N14537 N15766  5 TC=0,0 
X_U1         N14269 N14273 N14281 N14273 ASCR 
V_V5         N14447 0  
+PULSE 0 20 21.67m 1u 1u 100u 50m
C_C1         0 N14537  500uF  TC=0,0 
V_V7         N14273 N15766 250V
