* source TASK_3
L_L3         N130970 N12997  5mH  
X_U13         N12893 N12689 ADIODE 
V_V5         N13581 0  AC 0
+SIN 0 1 500 0 0 120
L_L2         N130410 N12997  5mH  
X_U9         N13597 N13601 N12869 PWM PARAMS:  VPOS=20 VNEG=-20
X_U2         N12953 0 0 N12869 AIGBT 
X_U5         N12953 N12689 ADIODE 
V_V4         N13597 0  AC 0
+SIN 0 1 500 0 0 0
V_V1         N12689 0 50v
X_U10         N13581 N13601 N12837 PWM PARAMS:  VPOS=20 VNEG=-20
X_U7         0 N12921 ADIODE 
X_U8         0 N12953 ADIODE 
X_U6         N12921 N12689 ADIODE 
R_R2         N130410 N12921  1 TC=0,0 
X_U16         N13695 N13601 N12793 PWM PARAMS:  VPOS=20 VNEG=-20
R_R3         N130970 N12893  1 TC=0,0 
X_U12         N12689 N12893 N12793 0 AIGBT 
R_R1         N129370 N12953  1 TC=0,0 
X_U3         N12689 N12921 N12837 0 AIGBT 
X_U11         N13601 TRIWAV PARAMS:  DELAY=0 DT=1US PERIOD=1MS LEVEL=5V
V_V6         N13695 0  AC 0
+SIN 0 1 500 0 0 240
X_U4         N12921 0 0 N12837 AIGBT 
X_U1         N12689 N12953 N12869 0 AIGBT 
X_U15         0 N12893 ADIODE 
X_U14         N12893 0 0 N12793 AIGBT 
L_L1         N129370 N12997  5mH  
C_C1         N12953 N12997  1u  TC=0,0 
C_C2         N12893 N12997  1u  TC=0,0 
C_C3         N12997 N12921  1u  TC=0,0 
