* source TASK7
D_D10         N17490 N17534 D1N3940 
L_L1         N17830 N17490  7mH  
D_D13         N17510 N17514 D1N3940 
R_R1         N17830 N17514  0.5 TC=0,0 
V_V1         0 N17534  
+SIN 0 220 60 0 0 0
C_C1         N17490 N17514  1uF  TC=0,0 
D_D14         N17534 N17514 D1N3940 
V_V2         0 N17506  
+SIN 0 220 60 0 0 120
D_D12         N17490 N17510 D1N3940 
V_V3         0 N17510  
+SIN 0 220 60 0 0 -120
D_D11         N17490 N17506 D1N3940 
D_D15         N17506 N17514 D1N3940 
