* source TASK3
V_V1         N00133 N00152  
+SIN 0 220 60 0 0 0
D_D1         N00133 N00159 D1N3940 
D_D2         0 N00133 D1N3940 
D_D3         0 N00152 D1N3940 
D_D4         N00152 N00159 D1N3940 
R_R1         0 N00159  10 TC=0,0 
