* source TASK4
D_D2         0 N00596 D1N3940 
D_D4         N00614 N00618 D1N3940 
V_V1         N00596 N00614  
+SIN 0 220 60 0 0 0
R_R1         N00781 N00618  10 TC=0,0 
D_D3         0 N00614 D1N3940 
D_D1         N00596 N00618 D1N3940 
L_L1         N00781 0  20mH  
