* source TASK1
R_R1         0 N00111  30 TC=0,0 
D_D1         N00106 N00111 D1N3940 
V_V1         N00106 0  
+SIN 0 220 60 0 0 0
C_C1         0 N00111  900uF  TC=0,0 
