* source TASK1
V_V1         N00126 0  
+SIN 0 220 60 0 0 0
R_R1         N00289 N00110  0.5 TC=0,0 
L_L1         N00110 0  7mH  
D_D1         N00126 N00289 D1N3940 
